US06605620B1
Synthesis of 1-(tert-Butoxycarbonyl)4-[N-(4-methylphenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]piperidine
1-(tert-Butoxycarbonyl)-4-[(4-methylphenyl)amino]piperidine (581 mg) and 3-(3,4,5-trimethoxyphenyl)benzyl chloride (586 mg) was treated in the same manner as described in Example 9 to give light yellow amorphous of the title compound.

reactant | 1-(tert-Butoxycarbonyl)-4-[(4-methylphenyl)amino]piperidine | 581 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)C | C17H26N2O2
reactant | 3-(3,4,5-trimethoxyphenyl)benzyl chloride | 586 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
product | 1-(tert-Butoxycarbonyl)4-[N-(4-methylphenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC=C(C=C1)C | C33H42N2O5
